US06727264B1
7-(2-METHYLPHENYL)-1H-INDOLE:
Prepared by Procedure I and Scheme T using 7-bromo-1H-indole and 2-methylphenylboronic acid: ESMS m/e: 208 (M+H)+.

reactant | 7-bromo-1H-indole | BrC=1C=CC=C2C=CNC12 | C8H6BrN
reactant | 2-methylphenylboronic acid | CC1=C(C=CC=C1)B(O)O | C7H9BO2
product | 7-(2-METHYLPHENYL)-1H-INDOLE | CC1=C(C=CC=C1)C=1C=CC=C2C=CNC12 | C15H13N
